US05500474
A solution of butanesultone (27.2 g, 0.2 mol) and aniline (46.5 g, 0.5 mol) in ethanol is heated under reflux for 4 hr. and cooled to room temperature to precipitate a white solid. The precipitates are filtered and recrystallized in ethanol to obtain 4-anilino-1-butanesulfonic acid (42.2 g, 90%) as white crystals. 4-Anilino-1-butanesulfonic acid (10 g) is dissolved in water and neutralized by sodium hydroxide. The neutral solution is concentrated under reduced pressure to give white solids. The solids are crystallized in methanol-chloroform to obtain 4-anilino-1-butanesulfonic acid sodium salt (10.0 g, 92%) as white crystals.

reactant | butanesultone | 0.2 mol, 27.2 g | C1CCCOS1(=O)=O | C4H8O3S
reactant | aniline | 0.5 mol, 46.5 g | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | C(C)O | C2H6O
product | 4-anilino-1-butanesulfonic acid | 42.2 g, 90% | N(C1=CC=CC=C1)CCCCS(=O)(=O)O | C10H15NO3S
